US05250688
To a solution of 2-amino-6-chloro-9-[2-(2,2-dimethyl-1, 3-dioxan-5-yl)ethyl]purine (0.54 g, 1.75 mmol) in ethanol (10 ml) and cyclohexene (20 ml) was added 10% palladium-on-charcoal (400 mg) and the solution was refluxed for 7 hours. A further quantity of catalyst (200 mg) was added and the solution was refluxed overnight. The solution was filtered and washed through with methanol. To the filtrate was added hydrochloric acid (5 M, 0.3 ml) and water (0.7 ml) and the solution was stirred for 30 minutes at room temperature. The solution was neutralised by addition of aqueous sodium bicarbonate and the solvent was removed. The residue was purified by column chromatography on silica gel eluting with chloroform-methanol (5:1, 4:1) to afford 2-amino-9-(4-hydroxy-3-hydroxymethylbut-1-yl)purine as a crystalline solid (150 mg, 36%), m.p. 156°-158° C.; λmax (H2O) 242 and 303 nm; νmax (KBr) 3320, 3210, 1640, 1610, 1580, and 1430 cm1 ; δH [(CD3)2SO] 1.47 (1H, m, 3'-H), 1.78 (2H, q, J 7.2Hz, 2'-H), 3.3-3.5 (4H, m, 2×4'-H), 4.12 (2H, t, J 7.4Hz, 1'-H), 4.42 (2H, t, J 5.2Hz, D2O exchangeable, 2 x OH), 6.45 (2H, s, D2O exchangeable, 2-NH2), 8.06 (1H, s, 8-H), and 8.56 (1H, s, 6-H); (Found: C, 50.61; H, 6.45; N, 29.62 %. C10H15N5O2 requires: C, 50.62; H, 6.37; N, 29.52

reactant | 2-amino-6-chloro-9-[2-(2,2-dimethyl-1, 3-dioxan-5-yl)ethyl]purine | 1.75 mmol, 0.54 g | NC1=NC(=C2N=CN(C2=N1)CCC1COC(OC1)(C)C)Cl | C13H18ClN5O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | cyclohexene | 20 ml | C1=CCCCC1 | C6H10
catalyst | palladium-on-charcoal | 400 mg | [Pd] | Pd
product | 2-amino-9-(4-hydroxy-3-hydroxymethylbut-1-yl)purine | 150 mg, 36% | NC1=NC=C2N=CN(C2=N1)CCC(CO)CO | C10H15N5O2
